datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc(S(=O)(=O)CC[N:10]2CCCCC2)c(OC)c1OC.O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCC[N+:21]1([H:20])CCOCC1>>COc1ccc(S(=O)(=O)CC[N+:10]2([H:20])CCCCC2)c(OC)c1OC.O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCC[N:21]1CCOCC1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O:21][H:20].[Se-]c1nccc([O-:10])[nH+]1>>CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O-:21].[Se-]c1nccc([O:10][H:20])[nH+]1 10=20;20,21=21",
"CC1CCCC[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CCCC[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)=C(C(N)=O)C(=O)[O-:10].COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:21][H:20])c3[C@H](C2)N1C>>CC(C)=C(C(N)=O)C(=O)[O:10][H:20].COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:21])c3[C@H](C2)N1C 10=20;20,21=21",
"CN(C)c1cccc[n+]1[O:21][H:20].COC(=O)c1ccc([N-:10]C=S)cc1>>CN(C)c1cccc[n+]1[O-:21].COC(=O)c1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"[H][C:21](C(C)=O)(C(C)=O)[H:20].c1ccc2c(c1)CC[NH:10]C2>>[H][C-:21](C(C)=O)C(C)=O.c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"Fc1ccc([O-:10])c(CN2CCOCC2)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Fc1ccc([O:10][H:20])c(CN2CCOCC2)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(C)(C)C(=O)[O-:10].Cc1ccc2c(c1)N1CC[N+:21]2([H:20])CC1>>CCC(C)(C)C(=O)[O:10][H:20].Cc1ccc2c(c1)N1CC[N:21]2CC1 10=20;20,21=21",
"O=C([O-])C1CCC[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C1CCC[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CN(CCC[NH3+])CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CN(CCC[NH3+])CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCN(CC)C(=O)C[NH:10]CC.CNc1nc(NC)[n+:21]([H:20])c2[nH]ncc12>>CCN(CC)C(=O)C[NH+:10](CC)[H:20].CNc1nc(NC)[n:21]c2[nH]ncc12 10=20;20,21=21",
"Cc1ccc(CO[NH2+:21][H:20])cc1.O=C(c1ccccc1)c1ccc([O-:10])c(O)c1>>Cc1ccc(CO[NH2:21])cc1.O=C(c1ccccc1)c1ccc([O:10][H:20])c(O)c1 10=20;20,21=21",
"CC(=O)Nc1ccc2cc3ccccc3[n:10]c2c1.C[NH2+:21][H:20]>>CC(=O)Nc1ccc2cc3ccccc3[n+:10]([H:20])c2c1.C[NH2:21] 10=20;20,21=21",
"COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N:10]3C)[C@@H]1O5.COc1nc[n+:21]([H:20])c2nccnc12>>COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N+:10]3(C)[H:20])[C@@H]1O5.COc1nc[n:21]c2nccnc12 10=20;20,21=21",
"CC(=O)O[O-:10].CN(C)c1ncc2c(nc[n:21]2[H:20])n1>>CC(=O)O[O:10][H:20].CN(C)c1ncc2c(nc[n-:21]2)n1 10=20;20,21=21",
"CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].ON=C(c1ccccc1)[N-:10]O>>CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:21]1)C(=O)[O-].ON=C(c1ccccc1)[N:10](O)[H:20] 10=20;20,21=21",
"CC1(C)CC([NH:10]CCO)CC(C)(C)[NH2+]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1(C)CC([NH+:10](CCO)[H:20])CC(C)(C)[NH2+]1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C1C2CCC2C(=O)[N-:10]1.O=C1C=C([O:21][H:20])c2ccc(O)cc2O1>>O=C1C2CCC2C(=O)[N:10]1[H:20].O=C1C=C([O-:21])c2ccc(O)cc2O1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OC(C[NH2:10])c1ccc(Cl)cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OC(C[NH2+:10][H:20])c1ccc(Cl)cc1 10=20;20,21=21",
"Nc1[nH]c2ccccc2[n:10]1.O=[N+]([O-])c1ccc2ccccc2c1[NH2+:21][H:20]>>Nc1[nH]c2ccccc2[n+:10]1[H:20].O=[N+]([O-])c1ccc2ccccc2c1[NH2:21] 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.c1ccc(CC2CCC[NH:10]2)cc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CN=CC=C2)[H:20])C=C1>>CC(C)[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CN=CC=C2)C=C1 10=20;20,21=21",
"CCOc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:10](C)CC[C@@]341.CSc1ccc(C(=O)[O:21][H:20])cc1>>CCOc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:10](C)([H:20])CC[C@@]341.CSc1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"C1C[N+:21]2([H:20])CC[C@@H]3OC[C@H]1[C@@H]32.CCCCCCCCCCCC[NH2+]CCC(=O)[O-:10]>>C1C[N:21]2CC[C@@H]3OC[C@H]1[C@@H]32.CCCCCCCCCCCC[NH2+]CCC(=O)[O:10][H:20] 10=20;20,21=21",
"NC(=O)Cc1cc[n:10]cc1.c1ccc(-c2ccc([O:21][H:20])cc2)cc1>>NC(=O)Cc1cc[n+:10]([H:20])cc1.c1ccc(-c2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)OC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)OC.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[N+:21](CCC(c1ccccc1)c1ccccn1)(C(C)C)[H:20].CCCC[N:10]1CCCCC1C(=O)Nc1c(C)cccc1C>>CC(C)[N:21](CCC(c1ccccc1)c1ccccn1)C(C)C.CCCC[N+:10]1([H:20])CCCCC1C(=O)Nc1c(C)cccc1C 10=20;20,21=21",
"CC1(C(=O)[O:21][H:20])CCC=[N+]1[O-].Ic1nnn[n-:10]1>>CC1(C(=O)[O-:21])CCC=[N+]1[O-].Ic1nnn[n:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc(SCC(=O)[O-:10])cc1.Cc1cc(C)c[n+:21]([H:20])c1>>CC(C)(C)c1ccc(SCC(=O)[O:10][H:20])cc1.Cc1cc(C)c[n:21]c1 10=20;20,21=21",
"Cc1cc([S-])[n:10]c([S-])n1.O=C(C=C(c1ccccc1)[S:21][H:20])Nc1ccccc1>>Cc1cc([S-])[n+:10]([H:20])c([S-])n1.O=C(C=C(c1ccccc1)[S-:21])Nc1ccccc1 10=20;20,21=21",
